US08431596B2
2-(3-Chloro-phenyl)-N-(3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenyl)-acetamide (XX-227)
[5-(3-Amino-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (50 mg, 0.121 mmol), 3-chlorophenylacetic acid (25 mg, 0.145 mmol) and di-isopropylethylamine (25 μL, 0.145 mmol) were dissolved in dimethylacetamide (1 ml). HBTU (55 mg, 0.145 mmol) was subsequently added and the mixture was stirred overnight. The product was purified by preparatory HPLC. RT: 2.9 min, MI: 567, Method: 2.

reactant | [5-(3-Amino-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | 0.121 mmol, 50 mg | NC=1C=C(C=CC1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C24H26N6O
reactant | 3-chlorophenylacetic acid | 0.145 mmol, 25 mg | ClC=1C=C(C=CC1)CC(=O)O | C8H7ClO2
reactant | di-isopropylethylamine | 0.145 mmol, 25 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 0.145 mmol, 55 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylacetamide | 1 ml | CC(=O)N(C)C | C4H9NO
product | 2-(3-Chloro-phenyl)-N-(3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenyl)-acetamide | ClC=1C=C(C=CC1)CC(=O)NC1=CC(=CC=C1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C32H31ClN6O2
